US08487108B2
(R)-tert-Butyl 3-((R)-(3-chloro-4-fluorophenyl)(cyanomethoxy)methyl)piperidine-1-carboxylate (2.28 g, 6 mmol) was dissolved in anhydrous THF (50 mL), and the solution was heated to reflux under nitrogen. A solution of 10 M of BH3.Me2S (1.8 mL, 18 mmol) in THF was added dropwise and stirring was continued under reflux overnight. The resulting solution was cooled to 0° C., CH3OH was added dropwise to quench the reaction. Evaporation of the solvent led to crude (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-chloro-4-fluorophenyl)methyl)piperidine-1-carboxylate (2 g, yield 87%), which was used in the next step without further purification.

reactant | (R)-tert-Butyl 3-((R)-(3-chloro-4-fluorophenyl)(cyanomethoxy)methyl)piperidine-1-carboxylate | 6 mmol, 2.28 g | ClC=1C=C(C=CC1F)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCC#N | C19H24ClFN2O3
reactant | Me2S | 18 mmol, 1.8 mL | S(C)C | C2H6S
reactant | CH3OH | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-chloro-4-fluorophenyl)methyl)piperidine-1-carboxylate | 2 g, yield 87% | NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=C(C=C1)F)Cl | C19H28ClFN2O3
